US07598257B2
Step 1: 3-[4-(7-[2-(Trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]-cyclohexanone
To a solution of 4-(1H-pyrazol-4-yl)-7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]-pyrimidine (309 mg, 0.980 mmol) in ACN (6 mL) was added 2-cyclohexen-1-one (190 μL, 01.96 mmol), followed by DBU (40 μL, 0.3 mmol). The resulting mixture was stirred for one hour at which point LCMS indicated complete addition. The mixture was reduced in vacuo and the crude product was purified by column chromatography to obtain the product (397 mg, 98%). 1H NMR (400 MHz, CDCl3): δ 8.84 (s, 1H), 8.27 (s, 1H), 8.25 (s, 1H), 7.45 (d, 1H), 6.79 (d, 1H), 5.67 (s, 2H), 4.61 (m, 1H), 3.55 (m, 2H), 3.05-2.90 (m, 2H), 2.45-2.30 (m, 4H), 2.05 (m, 1H), 1.90 (m, 1H), 0.92 (m, 2H), −0.06 (s, 9H). MS (EI) m/z=412.2 (M+H).

reactant | 4-(1H-pyrazol-4-yl)-7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]-pyrimidine | 0.980 mmol, 309 mg | N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C15H21N5OSi
reactant | 2-cyclohexen-1-one | 190 μL | C1(C=CCCC1)=O | C6H8O
reactant | DBU | 0.3 mmol, 40 μL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | ACN | 6 mL | C(C)#N | C2H3N
product | 3-[4-(7-[2-(Trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]-cyclohexanone | 397 mg, 98% | C[Si](CCOCN1C=CC2=C1N=CN=C2C=2C=NN(C2)C2CC(CCC2)=O)(C)C | C21H29N5O2Si
